US07329662B2
5-(4-Chloro-phenyl)-2-methyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (251 mg) 1.0 mmol), prepared from commercially available 4-chloro-acetophenone according to general procedure A, and commercially available 3-amino-4-cyano-5-methyl-pyrazole (122 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (222 mg, 66%). MS (ISP) 337.1 [(M+H)+]; mp 238° C.

reactant | 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 251 mg | ClC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6ClF3O2
reactant | 3-amino-4-cyano-5-methyl-pyrazole | 1.0 mmol, 122 mg | NC1=NNC(=C1C#N)C | C5H6N4
product | 5-(4-Chloro-phenyl)-2-methyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 222 mg, 66% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2C#N)C | C15H8ClF3N4
